Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
L eye visual changes
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Mr. ___ is a ___ year old man with history of 2 prior strokes
(___), atrial fibrillation not on anticoagulation, HTN,
alcohol use disorder, who presents to the ED with acute left eye
vision changes. He reports that he was napping throughout the 
day
today which is not unusual for him and woke up at 2:45pm feeling
normally. He then dozed again and awoke at 3:10pm with sudden
vision changes of his left eye which he describes as narrowed
visual field where he can only see through a pinhole. He notes
that the vision through the pinhole is clear, but is severely
restricted. He has baseline vision loss in his right eye and his
left eye is typically normal. He denies speech changes,
difficulty swallowing, facial weakness, arm or leg weakness,
difficulty walking. He has not missed any doses of medications.
 
Past Medical History:
HTN
HLD
Afib not on anticoagulation
Stroke (___)
Alcohol use disorder

 
Social History:
___
Family History:
No family history of stroke.
 
Physical Exam:
General: Awake, cooperative, NAD.
HEENT: MMM, no lesions noted in oropharynx.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation (though patient
states that much of what he sees through his left eye is 
blurry).
Visual acuity ___ L, ___ R. Fundoscopic exam with 
inability
to visualize optic discs bilaterally.
V: Facial sensation intact to light touch.
VII: R facial weakness with activation (per patient and family,
this is baseline).
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. Extinction to DSS of
light touch of RLE only (not to UE or vision). 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 

-Coordination: Intention tremor present on L. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally. Asterixis
present bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. 

DISCHARGE 
Alert, conversant, able to recount history without difficulty. 
Left pupil reacts more sluggishly than the right. Left eye is 
blind except for central vision at about 10 degrees. Full 
strenght. No sensory deficits. Reflexes are symmetric. 
Coordination is normal. 
 
Pertinent Results:
___ 06:06PM BLOOD WBC-7.3 RBC-4.35* Hgb-11.2* Hct-36.5* 
MCV-84 MCH-25.7* MCHC-30.7* RDW-16.0* RDWSD-48.4* Plt ___
___ 06:06PM BLOOD Neuts-64.6 ___ Monos-8.4 Eos-1.0 
Baso-0.5 Im ___ AbsNeut-4.71 AbsLymp-1.84 AbsMono-0.61 
AbsEos-0.07 AbsBaso-0.04
___ 06:06PM BLOOD ___ PTT-24.9* ___
___ 05:33AM BLOOD Glucose-92 UreaN-16 Creat-1.3* Na-142 
K-4.5 Cl-104 HCO3-22 AnGap-16
___ 05:33AM BLOOD ALT-11 AST-19 LD(LDH)-148 CK(CPK)-74 
AlkPhos-65 TotBili-1.2
___ 05:33AM BLOOD CK-MB-1 cTropnT-<0.01
___ 05:33AM BLOOD TotProt-6.5 Albumin-3.8 Globuln-2.7 
Cholest-120
___ 05:33AM BLOOD %HbA1c-5.9 eAG-123
___ 05:33AM BLOOD Triglyc-54 HDL-51 CHOL/HD-2.4 LDLcalc-58
___ 05:33AM BLOOD TSH-3.7
___ 05:33AM BLOOD CRP-1.0
___ 06:06PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 06:10PM BLOOD Glucose-108* Creat-1.4* Na-142 K-4.2 
Cl-106 calHCO3-23

___ Imaging CTA HEAD AND CTA NECK
1. No acute intracranial abnormality.  Chronic infarction in the 
caudate head
and putamen.
2. Complete occlusion of the left cervical ICA extending from 
the bifurcation
to the supraclinoid segment.  Left M1 segment narrowing, 
unchanged.  Otherwise
patent circle of ___ without evidence of 
stenosis,occlusion,or aneurysm.
3. Distal V2, V3, and proximal right V4 segments of the right 
vertebral artery
are not well seen, similar to the most recent study in ___.  
Otherwise patent carotid and vertebral arteries without evidence 
of stenosis,
occlusion, or dissection.

___ Imaging MRI & MRA BRAIN AND MRA
1. No acute intracranial abnormality.  Old infarct in the left 
basal ganglia.
2. Complete occlusion of the left cervical ICA extending from 
the bifurcation
to the supraclinoid ICA where there is reconstitution of flow.  
The appearance
is suggestive of atherosclerotic disease related occlusion.
3. Otherwise patent cervical carotid and vertebral arteries and 
intracranial
arteries without evidence of stenosis, occlusion,dissection or 
aneurysm.

___ Cardiovascular Transthoracic Echo Report
Normal study. Normal biventricular cavity sizes and 
regional/global biventricularsystolic function. Mild mitral 
regurgitation with normal valve morphology. Normal 
estimatedpulmonary artery systolic pressure. No definite 
structural cardiac source of embolism identified
 
Brief Hospital Course:
___ man w/ PMH of 2 strokes (___), Afib (on ASA 325 mg), 
HTN, HLD, and alcohol use disorder who presented with acute 
vision loss of the left eye and found to have left ICA occlusion 
with involvement of the left ophthalmic artery.

Physical exam was notable for sluggish pupillary reaction in 
left eye, ___ visual acuity in left eye (compared to ___ 
in the right), loss of all visual fields of left eye with 
macular sparing, nystagmus in left gaze, and left-sided 
intention tremor.

Etiology of occlusion thought to be a cardioembolic secondary to 
A-fib since he is not on AC. Patient was treated acutely with a 
heparin drip. His outpatient stroke neurologist, Dr. ___, has 
had previously recommended initiating anticoagulation; however, 
the patient was unwilling to cut back on the amount of alcohol 
he consumed, so he was continued on ASA 325 mg daily. We again 
recommended anticoagulation (eg warfarin), but the 
patient/family declined. Ultimately, he was discharged on 
aspirin and clopidogrel with plan to see cardiology for 
consideration of a Watchman procedure.

Patient's home HCTZ was held and his home dose of atenolol was 
cut in half in the setting of ICA occlusion. Patient was 
continued on his home medications of aspirin and atorvastatin.

Transitional issues:
===================
- Continue aspirin 81 mg daily and clopidogrel 75 mg daily until 
follow up with stroke.
- Consider transition to anticoagulation, if patient is 
amenable.
- Continue to encourage alcohol cessation.
- Follow up with cardiology for consideration of watchman 
procedure.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? () Yes - (x) No. If no, why not 
(therapeutically anticoagulated with heparin drip)
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (58) Yes (LDL = ) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No. If no, why not? (patient at baseline functional 
status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - If no, why not (Patient 
declined) () N/A
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Atenolol 50 mg PO DAILY 
4. FoLIC Acid 1 mg PO DAILY 
5. Hydrochlorothiazide 12.5 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Cyanocobalamin 1000 mcg PO DAILY 
8. Thiamine 100 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin EC 81 mg PO DAILY  
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Atenolol 50 mg PO DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  Cyanocobalamin 1000 mcg PO DAILY  
6.  FoLIC Acid 1 mg PO DAILY  
7.  Hydrochlorothiazide 12.5 mg PO DAILY  
8.  Omeprazole 20 mg PO DAILY  
9.  Thiamine 100 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
- Acute cardioembolic thromboembolism occluding the left 
internal carotid artery 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after you had a sudden loss of 
your vision in your left eye. A CT scan and an MRI showed that 
you had a blockage of a large blood vessel in your neck that 
supplies blood to the eye. This is likely what caused your loss 
of vision. This blockage is likely caused by a clot that came 
from your heart since you have atrial fibrillation. 

While in the hospital, you were treated with heparin, which is a 
blood thinner. Blood thinners can help decrease your risk of 
clots. Since you have atrial fibrillation and you were not 
taking a blood thinner, you were at higher risk for developing a 
clot like the one that caused your loss of vision. 

When you are discharged, please follow the following 
recommendations: 
- Please attend all of your scheduled clinic appointments 
- Please take all of your medications as prescribed 
- See a cardiologist to discuss a Watchman procedure to decrease 
the risk of stroke 

MEDICATION CHANGES 
- Start clopidogrel 75 mg daily 
- Decrease aspirin to 81 mg daily 

It was a pleasure taking care of you, 
Your ___ care team 
 
Followup Instructions:
___